US06096771
(b) 2-Chloropyridine-3-carbohydroxamic Acid
To a solution of hydroxylamine hydrochloride (6.75 g) in water (25 ml) was added sodium hydroxide solution (7.65 g sodium hydroxide in 50 ml water) with stirring under ice cooling. To this stirring solution was added methyl 2-chloronicotinate (15.5 g) in methanol. After being stirred at room temperature for 2.5 hours, pH was adjusted to 3.5 with 6N-hydrochloric acid under ice cooling. After 1 hour, the title compound (11.0 g) was obtained by filtering the precipitated crystals and washing with water and, then, a methanol-ether mixture (1:1).

reactant | hydroxylamine hydrochloride | 6.75 g | Cl.NO
reactant | sodium hydroxide | 50 ml, 7.65 g | [OH-].[Na+]
reactant | methyl 2-chloronicotinate | 15.5 g | ClC1=C(C(=O)OC)C=CC=N1 | C7H6ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 25 ml | O | H2O
solvent | methanol | CO | CH4O
product | 2-Chloropyridine-3-carbohydroxamic Acid | 11.0 g | ClC1=NC=CC=C1C(=O)NO | C6H5ClN2O2
